US07354932B2
To a solution of 2-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzoimidazole-1-carboxylic acid tert-butyl ester (0.378 g, 1.00 mmol) and (2-oxo-ethyl)-carbamic acid tert-butyl ester (0.159 g, 1.00 mmol) in dichloromethane (5 mL) was added sodium triacetoxyborohydride (0.223 g, 1.05 mmol). The mixture was stirred at room temperature for 15 h and then poured into saturated aqueous NaHCO3 (30 mL). The mixture was extracted with chloroform (3×20 mL). The extracts were dried over Na2SO4 and concentrated. Purification of the crude material by column chromatography on silica gel (98:1:1 CH2Cl2—CH3OH—NH4OH) provided 499 mg (96%) of 2-{[(2-tert-butoxycarbonylamino-ethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-methyl}-benzoimidazole-1-carboxylic acid tert-butyl ester as a yellow foam. 1H NMR (CDCl3) δ 1.48 (s, 9H), 1.64 (s, 9H), 1.69-1.85 (m, 2H), 1.94-1.99 (m, 1H), 2.24 (m,1H), 2.61-2.87 (m, 3H), 3.09-3.19 (m, 3H), 4.07 (dd, J=9.9 Hz, 5.7 Hz, 1H), 4.26 (d, J=16.2 Hz, 1H), 4.52 (d, J=16.2 Hz, 1H), 6.98 (dd, 1H, J=7.7 Hz, 4.7 Hz, 1H), 7.26-7.32 (m, 3H), 7.57 (brs, 1H), 7.74 (m, 1H), 7.86 (m, 1H), 8.41 (d, J=3.9 Hz, 1H).

reactant | 2-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzoimidazole-1-carboxylic acid tert-butyl ester | 1.00 mmol, 0.378 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CNC2CCCC=1C=CC=NC21 | C22H26N4O2
reactant | (2-oxo-ethyl)-carbamic acid tert-butyl ester | 1.00 mmol, 0.159 g | C(C)(C)(C)OC(NCC=O)=O | C7H13NO3
reactant | sodium triacetoxyborohydride | 1.05 mmol, 0.223 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-{[(2-tert-butoxycarbonylamino-ethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-methyl}-benzoimidazole-1-carboxylic acid tert-butyl ester | 499 mg, 96% | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CCNC(=O)OC(C)(C)C | C29H39N5O4
